US08138345B2
Preparation of [3-(2-Oxopropyl)phenyl]acetonitrile
A stirred solution of 3-bromophenylacetonitrile (10.0 g, 51.0 mmol), tributyltin methoxide (17.6 mL, 61.2 mmol), tris(dibenzylideneacetone)dipalladium(0) (500 mg, 0.5 mmol), isopropenyl acetate (6.74 mL, 61.2 mmol) and 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (800 mg, 2 mmol) in toluene (100 mL, degassed) was heated at 100° C. under nitrogen for 6 h. The reaction mixture was cooled to room temperature and EtOAc (30 mL) was added. A solution of potassium fluoride (10 g, 200 mmol) in water (52 mL) was then added and the resulting mixture was stirred overnight. Brine was added and the mixture was filtered through a pad of Celite. The layers were separated and the organic layer was dried over sodium sulfate, filtered (cotton plug) and concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-30% EtOAc in hexanes) to give the title compound (6.1 g, 69% yield) as a brown oil.

reactant | 3-bromophenylacetonitrile | 51.0 mmol, 10.0 g | BrC=1C=C(C=CC1)CC#N | C8H6BrN
reactant | tributyltin methoxide | 61.2 mmol, 17.6 mL | C[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | isopropenyl acetate | 61.2 mmol, 6.74 mL | C(C)(=O)OC(=C)C | C5H8O2
reactant | potassium fluoride | 200 mmol, 10 g | [F-].[K+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 52 mL | O | H2O
solvent | Brine | [Cl-].[Na+].O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.5 mmol, 500 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 2 mmol, 800 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | [3-(2-Oxopropyl)phenyl]acetonitrile | 6.1 g, 69% yield | O=C(CC=1C=C(C=CC1)CC#N)C | C11H11NO
